### PR TITLE
feat(LinearAlgebra): define LinearMap.Eigenbasis

### PR DESCRIPTION
**Pull request by llllvvuu**
Some theorems are left TODO for follow-up work.

The definition is from @eric-wieser ([#Is there code for X? > diagonalizable linear maps @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/diagonalizable.20linear.20maps/near/539163222)).

Co-authored-by: Aristotle Harmonic <aristotle-harmonic@harmonic.fun>

---

- [x] depends on: #29420 (golfs some `[Nontrivial R]` assumptions)
- [x] depends on: #29791

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeModule/PID.lean [hunk 1]
```diff
@@ -396,6 +397,11 @@ theorem Module.free_iff_noZeroSMulDivisors [Module.Finite R M] :
     Module.Free R M ↔ NoZeroSMulDivisors R M :=
   ⟨fun _ ↦ inferInstance, fun _ ↦ inferInstance⟩
 
+-- https://mathoverflow.net/questions/16953/are-submodules-of-free-modules-free#comment31868_16954
+proof_wanted Submodule.free_of_free_of_pid {R M : Type*} [Semiring R] [AddCommMonoid M]
+    [IsPrincipalIdealRing R] [IsDomain R] [Module R M] [Module.Free R M] (N : Submodule R M) :
+    Module.Free R N
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/FreeModule/PID.lean:405]: Consider the following counterexample: `R=ℕ, M=ℕ, N=ℕ-{1}`.

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 2]
```diff
@@ -0,0 +1,253 @@
...
+  suffices D₁.μ = D₂.μ by cases D₁; cases D₂; simp_all only
+  ext a i
+  suffices D₁.μ a i • D₁.toBasis i = D₂.μ a i • D₁.toBasis i by
+    simpa using congr(D₁.toBasis.repr $this i)
+  rw [← (D₁.hasEigenVector_μ a i).apply_eq_smul, h, ← (D₂.hasEigenVector_μ a i).apply_eq_smul]
+
+/--
+A diagonalization of a linear map $T : V \to V$ is a basis of $V$ consisting of eigenvectors of $T$.
+-/
+def Diagonalization (ι : Type*) (f : End R M) := SimultaneousDiagonalization ι fun _ : Unit ↦ f
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: With things like this there are always two approaches and I'm never sure which one is better.
1. The current approach you have, i.e. define it as a special case where you take a function from `Unit`.
2. Define it separately, and then construct an `Equiv` between the separate definition and `SimultaneousDiagonalization`  specialised to a function from `Unit`.

Comment (kckennylau) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: Actually, you also included special constructors and projections to make 1 better, and this seems to align well with the approach taken by `CategoryTheory`, so I think this is good enough. Feel free to disregard this comment.

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 3]
```diff
@@ -0,0 +1,253 @@
...
+
+@[ext]
+lemma Diagonalization.ext {ι : Type*} {f : Module.End R M} {D₁ D₂ : f.Diagonalization ι}
+    (h : D₁.toBasis = D₂.toBasis) : D₁ = D₂ :=
+  SimultaneousDiagonalization.ext h
+
+/-- The eigenvalues of the diagonalization. -/
+def Diagonalization.μ {ι : Type*} {f : End R M} (self : f.Diagonalization ι) :=
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def Diagonalization.μ {ι : Type*} {f : End R M} (self : f.Diagonalization ι) : R :=
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 4]
```diff
@@ -0,0 +1,253 @@
...
+variable {K : Type uK} {V : Type uV} [Field K] [AddCommGroup V] [Module K V]
+
+/--
+A diagonalization of a family of linear maps $T_i : V \to V$ is a basis of $V$
+consisting of simultaneous eigenvectors of $T_i$.
+-/
+structure SimultaneousDiagonalization (ι : Type*) (f : α → End R M) extends Basis ι R M where
+  /-- The eigenvalues of the diagonalization. -/
+  μ : α → ι → R
+  hasEigenVector_μ (a : α) (i : ι) : (f a).HasEigenvector (μ a i) (toBasis i)
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: What if we change this to `f a (toBasis i) = μ a i • toBasis i`? I think they are equivalent for `Nontrivial R`, and furthermore for `Subsingleton R` it will also change from empty to unique. This will allow you to remove the assumption `Nontrivial R` from [here](https://github.com/leanprover-community/mathlib4/pull/29610/files#r2348934974).

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 5]
```diff
@@ -0,0 +1,253 @@
...
+    (exists_hasEigenVector : ∀ i, ∃ μ, f.HasEigenvector μ (b i)) : f.Diagonalization ι where
+  toBasis := b
+  μ := fun _ i ↦ (exists_hasEigenVector i).choose
+  hasEigenVector_μ := fun _ i => (exists_hasEigenVector i).choose_spec
+
+/--
+Alternative constructor for `LinearMap.Diagonalization` from a basis of eigenvectors and
+diagonality of the matrix representation.
+-/
+noncomputable def diagonalization_of_isDiag_toMatrix [Nontrivial R] {ι : Type*} [Fintype ι]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: With the suggestion [here](https://github.com/leanprover-community/mathlib4/pull/29610/files#r2348933631) you will be able to remove `Nontrivial R`.

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 6]
```diff
@@ -0,0 +1,253 @@
...
+    [DecidableEq ι] {f : End R M} {b : Basis ι R M} (h : (f.toMatrix b b).IsDiag) :
+    f.Diagonalization ι :=
+  Diagonalization.mk (b := b) (μ := fun i ↦ f.toMatrix b b i i) <| fun i ↦ by
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
  .mk (b := b) (μ := fun i ↦ f.toMatrix b b i i) <| fun i ↦ by
```

You can use dot notation here and below.

**Comment by kckennylau** [comment]
I think the PR as a whole would benefit from sectioning into the two namespaces `SimultaneousDiagonalization` and `Diagonalization` and using `variable` for each namespace.

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 7]
```diff
@@ -0,0 +1,253 @@
...
+  ext m
+  induction D.toBasis.mem_span m using Submodule.span_induction with
+  | mem u hu =>
+    obtain ⟨k, rfl⟩ := Set.mem_range.mp hu
+    have := D.hasEigenVector_μ i k
+    have := D.hasEigenVector_μ j k
+    simp_all [hasEigenvector_iff, smul_smul, mul_comm]
+  | zero => simp
+  | add => simp [*] at *
+  | smul _ _ _ hm => simp [hm]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
lemma SimultaneousDiagonalization.commute {ι : Type*} {f : α → End R M}
    (D : SimultaneousDiagonalization ι f) (i j : α) : Commute (f i) (f j) := by
  refine D.toBasis.ext fun k ↦ ?_
  have := D.hasEigenVector_μ i k
  have := D.hasEigenVector_μ j k
  simp_all [hasEigenvector_iff, smul_smul, mul_comm]
```

File: Mathlib/LinearAlgebra/Diagonalization.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: This will also allow you to generalise it to `Semiring`, and simplify many proofs below that are currently using `simp_all`.

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 8]
```diff
@@ -0,0 +1,253 @@
...
+/-- Any basis diagonalizes the identity map. -/
+def diagonalization_one [Nontrivial R] {ι : Type*} (b : Basis ι R M) :
+    (1 : End R M).Diagonalization ι :=
+  Diagonalization.mk (b := b) (μ := 1) (by simp [hasEigenvector_iff, b.ne_zero])
+
+/-- Any simultaneous diagonalization of `f` also diagonalizes `c • f`. -/
+def SimultaneousDiagonalization.smul {ι : Type*} {f : α → End R M}
+    (D : SimultaneousDiagonalization ι f) (c : α → R) : SimultaneousDiagonalization ι (c • f) where
+  toBasis := D.toBasis
+  μ := fun a i ↦ c a * D.μ a i
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
  μ := c • D.μ
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 9]
```diff
@@ -0,0 +1,253 @@
...
+/-- Construct a simultaneous diagonalization from a family of diagonalizations. -/
+def SimultaneousDiagonalization.of_diagonalization {ι : Type*} {f : α → Module.End R M}
+    {b : Basis ι R M} {D : (a : α) → (f a).Diagonalization ι} (h : ∀ a, (D a).toBasis = b) :
+    SimultaneousDiagonalization ι f where
+  toBasis := b
+  μ a i := (D a).μ i
+  hasEigenVector_μ a i := h a ▸ (D a).hasEigenVector_μ i
+
+/-- Any basis diagonalizes the zero map. -/
+def diagonalization_zero [Nontrivial R] {ι : Type*} (b : Basis ι R M) :
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def Diagonalization.zero [Nontrivial R] {ι : Type*} (b : Basis ι R M) :
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 10]
```diff
@@ -0,0 +1,253 @@
...
+    (0 : End R M).Diagonalization ι :=
+  Diagonalization.mk (b := b) (μ := 0) (by simp [hasEigenvector_iff, b.ne_zero])
+
+/-- Any basis diagonalizes the identity map. -/
+def diagonalization_one [Nontrivial R] {ι : Type*} (b : Basis ι R M) :
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def Diagonalization.one [Nontrivial R] {ι : Type*} (b : Basis ι R M) :
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 11]
```diff
@@ -0,0 +1,253 @@
...
+    have := D.hasEigenVector_μ a i
+    simp_all [hasEigenvector_iff, smul_smul]
+
+/-- Any diagonalization of `f` also diagonalizes `c • f`. -/
+def Diagonalization.smul {ι : Type*} {f : End R M} (D : f.Diagonalization ι) (c : R) :
+    (c • f).Diagonalization ι :=
+  SimultaneousDiagonalization.smul D fun _ ↦ c
+
+/-- Any simultaneous diagonalization of `f` also diagonalizes `f - c • 1`. -/
+def SimultaneousDiagonalization.sub_smul {ι : Type*} {f : α → End R M}
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def SimultaneousDiagonalization.subSmulOne {ι : Type*} {f : α → End R M}
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 12]
```diff
@@ -0,0 +1,253 @@
...
+    (D : SimultaneousDiagonalization ι f) (c : α → R) :
+    SimultaneousDiagonalization ι (f - c • 1) where
+  toBasis := D.toBasis
+  μ := fun a i ↦ D.μ a i - c a
+  hasEigenVector_μ a i := by
+    have := D.hasEigenVector_μ a i
+    simp_all [hasEigenvector_iff, _root_.sub_smul]
+
+/-- Any diagonalization of `f` also diagonalizes `f - c • 1`. -/
+def Diagonalization.sub_smul {ι : Type*} {f : End R M} (D : f.Diagonalization ι) (c : R) :
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def Diagonalization.subSmulOne {ι : Type*} {f : End R M} (D : f.Diagonalization ι) (c : R) :
```

File: Mathlib/LinearAlgebra/Diagonalization.lean (hunk 2 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: Out of curiosity, knowing nothing about the `CategoryTheory` library, what is the approach taken by `CategoryTheory`?

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 13]
```diff
@@ -0,0 +1,253 @@
...
+    (f - c • 1).Diagonalization ι :=
+  SimultaneousDiagonalization.sub_smul D fun _ ↦ c
+
+/-- Any simultaneous diagonalization of `f` also diagonalizes `f i + f j` for any `i` and `j`. -/
+def SimultaneousDiagonalization.diagonalization_add {ι : Type*} {f : α → End R M}
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def SimultaneousDiagonalization.diagonalizationAdd {ι : Type*} {f : α → End R M}
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 14]
```diff
@@ -0,0 +1,253 @@
...
+    (D : SimultaneousDiagonalization ι f) (i j : α) : (f i + f j).Diagonalization ι :=
+  Diagonalization.mk (b := D.toBasis) (μ := fun k ↦ D.μ i k + D.μ j k) <| fun k ↦ by
+    have := D.hasEigenVector_μ i k
+    have := D.hasEigenVector_μ j k
+    simp_all [hasEigenvector_iff, _root_.add_smul]
+
+/-- Any simultaneous diagonalization of `f` also diagonalizes `∑ a, f a`. -/
+def SimultaneousDiagonalization.diagonalization_sum [Fintype α] [Nontrivial R]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def SimultaneousDiagonalization.diagonalizationSum [Fintype α] [Nontrivial R]
```

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 15]
```diff
@@ -0,0 +1,253 @@
...
+    {ι : Type*} {f : α → End R M} (D : SimultaneousDiagonalization ι f) :
+    (∑ a, f a).Diagonalization ι :=
+  Diagonalization.mk (b := D.toBasis) (μ := fun i ↦ ∑ a, D.μ a i) <| fun k ↦ by
+    have := (D.hasEigenVector_μ · k)
+    simp_all [hasEigenvector_iff, D.toBasis.ne_zero, Finset.sum_smul]
+
+/-- Any simultaneous diagonalization of `f` also diagonalizes `f i * f j` for any `i` and `j`. -/
+def SimultaneousDiagonalization.diagonalization_mul {ι : Type*} {f : α → End R M}
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]:
```suggestion
def SimultaneousDiagonalization.diagonalizationMul {ι : Type*} {f : α → End R M}
```

File: Mathlib/LinearAlgebra/Diagonalization.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: The same approach here, i.e. define it as a special case, and then provide custom constructors and projections. See [this](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Custom.20Constructor/near/539567226) for an example.

File: Mathlib/LinearAlgebra/Diagonalization.lean (hunk 4 above)
Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: Making the hypothesis weaker could cut both ways, but overall it sounds good to me and I'll make the change. I don't see admitting {0, 0, 0, ...} as an eigenbasis as any weirder than admitting {0, 0, 0, ...} as a basis in the first place; I'll add the theorem that it coincides in all other cases.

Comment (llllvvuu) [reply Mathlib/LinearAlgebra/Diagonalization.lean]: Done

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 16]
```diff
@@ -0,0 +1,301 @@
...
+
+/-- The eigenvalues of the diagonalization. -/
+def Diagonalization.μ {ι : Type*} {f : End S M} (self : f.Diagonalization ι) : ι → S :=
+  SimultaneousDiagonalization.μ self ()
+
+lemma Diagonalization.apply_toBasis {ι : Type*} {f : End S M} (self : f.Diagonalization ι)
+    (i : ι) : f (self.toBasis i) = self.μ i • self.toBasis i :=
+  SimultaneousDiagonalization.apply_toBasis self () i
+
+namespace SimultaneousDiagonalization
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: Please add `variable`

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 17]
```diff
@@ -0,0 +1,301 @@
...
+    (i j : α) : (f i * f j).Diagonalization ι :=
+  .mk (b := D.toBasis) (μ := D.μ j * D.μ i) <| fun k ↦ by simp [D.apply_toBasis, smul_smul]
+
+lemma commute {ι : Type*} {f : α → End C M'} (D : SimultaneousDiagonalization ι f) (i j : α) :
+    Commute (f i) (f j) :=
+  D.toBasis.ext fun k ↦ by simp [D.apply_toBasis, smul_smul, mul_comm]
+
+end SimultaneousDiagonalization
+
+namespace Diagonalization
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: Please add `variable`

File: Mathlib/LinearAlgebra/Diagonalization.lean [hunk 18]
```diff
@@ -0,0 +1,301 @@
...
+A diagonalization of a family of linear maps $T_i : V \to V$ is a basis of $V$
+consisting of simultaneous eigenvectors of $T_i$.
+-/
+structure SimultaneousDiagonalization (ι : Type*) (f : α → End S M) extends Basis ι S M where
+  /-- The eigenvalues of the diagonalization. -/
+  μ : α → ι → S
+  /--
+  We don't use `Module.End.HasEigenvector`, as it's slightly more convenient for all bases
+  of modules over the trivial ring to be considered eigenbases, even the degenerate ones like
+  `![0, 0, 0, ...]`.
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Diagonalization.lean]: there's actually only the degenerate ones (over the trivial ring) 🙃

File: Mathlib/LinearAlgebra/Eigenbasis.lean [hunk 19]
```diff
@@ -0,0 +1,400 @@
...
+  apply_eq_smul s i := by
+    induction s using Multiset.induction with
+    | empty => simp
+    | cons a as ih => simp [B.apply_eq_smul, ih, add_smul]
+
+/-- Any common eigenbasis of `f` is also a common eigenbasis of any sum of a finset of `f`. -/
+def finsetSum : CommonEigenbasis ι (fun s : Finset α ↦ ∑ a ∈ s, f a) where
+  toBasis := B.toBasis
+  μ s := ∑ a ∈ s, B.μ a
+  apply_eq_smul s i := by simp [B.apply_eq_smul, Finset.sum_smul]
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Eigenbasis.lean]:
```suggestion
/-- Any common eigenbasis of `f` is also a common eigenbasis of any sum of a multiset of `f`. -/
def multisetSum : CommonEigenbasis ι (fun s : Multiset α ↦ (s.map f).sum) where
  toBasis := B.toBasis
  μ s := (s.map B.μ).sum
  apply_eq_smul s i := by
    induction s using Multiset.induction with
    | empty => simp
    | cons a as ih => simp [B.apply_eq_smul, ih, add_smul]

/-- Any common eigenbasis of `f` is also a common eigenbasis of any sum of a list of `f`. -/
def listSum : CommonEigenbasis ι (fun l : List α ↦ (l.map f).sum) where
  toBasis := B.toBasis
  μ l := (l.map B.μ).sum
  apply_eq_smul l := B.multisetSum.apply_eq_smul l

/-- Any common eigenbasis of `f` is also a common eigenbasis of any sum of a finset of `f`. -/
def finsetSum : CommonEigenbasis ι (fun s : Finset α ↦ ∑ a ∈ s, f a) where
  toBasis := B.toBasis
  μ s := ∑ a ∈ s, B.μ a
  apply_eq_smul _ := B.multisetSum.apply_eq_smul _
```

They are actually all special cases of multiset sum.

File: Mathlib/LinearAlgebra/Eigenbasis.lean [hunk 20]
```diff
@@ -0,0 +1,400 @@
...
+  μ l := (l.map B.μ).reverse.prod
+  apply_eq_smul l i := by
+    induction l with
+    | nil => simp
+    | cons a as ih => simp [B.apply_eq_smul, ih, smul_smul]
+
+variable {b}
+
+/-- Any common eigenbasis of `f` is also a common eigenbasis of any subfamily of `f`. -/
+def comp {a' : Type*} {g : a' → α} : CommonEigenbasis ι (f ∘ g) where
```
Comment (kckennylau) [inline Mathlib/LinearAlgebra/Eigenbasis.lean]:
```suggestion
/-- Any common eigenbasis of `f` is also a common eigenbasis of any subfamily of `f`. -/
def comp {α' : Type*} {g : α' → α} : CommonEigenbasis ι (f ∘ g) where
```

**Review by kckennylau — APPROVED** [review]
Thank you very much!

File: Mathlib/LinearAlgebra/Eigenbasis.lean [hunk 21]
```diff
@@ -0,0 +1,426 @@
...
+  apply_eq_smul (a : α) (i : ι) : f a (toBasis i) = μ a i • toBasis i
+
+/--
+An eigenbasis (a.k.a. diagonalization) of a linear map $T : V \to V$ is a basis of $V$
+consisting of eigenvectors of $T$.
+
+Diagonalizability is the existence of an eigenbasis, spelled as
+`∃ ι : Type u, Nonempty (f.Eigenbasis ι)` with the naming convention `exists_eigenbasis`.
+-/
+def Eigenbasis (ι : Type*) (f : End S M) := CommonEigenbasis ι fun _ : Unit ↦ f
```
Comment (joelriou) [inline Mathlib/LinearAlgebra/Eigenbasis.lean:98]: I feel it would be a slightly better design to define a predicate `IsEigenBasis f` in the `Basis` namespace. This should make `CommonEigenbasis` essentially unnecessary.
